US03939202
To a mixture of geranylacetone (171 g) and ethyl monochloroacetate (141 g) at -10°C in the nitrogen stream, sodium ethoxide (71 g) is portionwise added, and the resultant mixture is stirred for 6 hours. A solution of potassium hydroxide (99 g) in methanol (560 ml) is added thereto, and stirring is continued for 2 hours. The reaction mixture is poured into water and skaken with petroleum ether. The water layer is neutralized with acetic acid and extracted with ether. The ether extract is washed with water and dried. After evaporation of the ether, the residual material is distilled under reduced pressure to give 2,6,10-trimethyl-5,9-undecadienal (135 g) as a pale yellow oil. B.P. 100° to 103°C/0.4 mm Hg. Yield, 73.6%. IR: 2680, 1720 cm-1 (CHO).

reactant | geranylacetone | 171 g | C(\C=C(/C)\CCC=C(C)C)CC(C)=O | C13H22O
reactant | ethyl monochloroacetate | 141 g | ClCC(=O)OCC | C4H7ClO2
reactant | sodium ethoxide | 71 g | [O-]CC.[Na+]
reactant | potassium hydroxide | 99 g | [OH-].[K+]
solvent | methanol | 560 ml | CO | CH4O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 2,6,10-trimethyl-5,9-undecadienal | 135 g | CC(C=O)CCC=C(CCC=C(C)C)C | C14H24O
